US05371101
In the same manner as in Reference Example 5, starting from 423 mg of (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 207 mg of 1-methyl-2(1H,3H)-imidazolone prepared by a method described in Journal of American Chemical Society vol. 98, page 8218 (1976), 102 mg of 1-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-3-methyl-2(1H,3H)-imidazolone was obtained as a colorless oil.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 423 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 1-methyl-2(1H,3H)-imidazolone | 207 mg | CN1C(NC=C1)=O | C4H6N2O
product | 1-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-3-methyl-2(1H,3H)-imidazolone | 102 mg | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2C(N(C=C2)C)=O)CO1 | C14H14F2N2O2
